Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Compazine
 
Attending: ___.
 
Chief Complaint:
Jaundice
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
___ with hx of anal cancer treated with chemo and XRT at
___, completed treatment ___ presenting with jaundice. Pt
reports feeling unwell x1 month with early satiety and
unintentional weight loss, approx. 10 lbs in 2 weeks. She noted
change in stool color to light beige, with darker urine, without
vomiting, chest pain or pressure. She denies abdominal pain,
diarrhea, constipation, hematuria, dysuria, ___ edema, SOB. She
phoned ___ hour number for PCP (Atrius) on the night prior to
presentation when she noted scleral icterus; she was advised to
present in am for urgent care appointment. Unfortunately OMR 
does
not link to Atrius records for this patient, but apparently CT
and MRI were both performed, and raised concern for a Klatskin
tumor, as well as hepatic mass. She was referred to ___ ED for
further evaluation.

In the ___ ED:
VS 98.5, 78, 170/67->150/80, 100% RA
Exam notable for jaundiced without abdominal TTP
Labs notable for WBC 6.8, Hb 12.6, plt 321, Cr 0.9, ALT 198, AST
99, Alk phos 257, Tbili 6.6, Dbili 4.5, Alb 4.1, INR 1.1

Received:
Lorazepam 0.5 mg PO x1

On arrival to the floor, pt is tearful, without pain. She denies
abdominal pain, chest pain, SOB. She has noted intermittent 
sharp
headache over the preceding ___ weeks, most recently over R
temporal region. She denies weakness, change in speech, change 
in
vision or hearing.

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
Anal cancer - tx'd w/ chemorads at ___, finished tx ___
Gout
 
Social History:
___
Family History:
Father with colon cancer diagnosed in his ___.
Mother with osteoporosis.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.4 PO 174 / 98 84 18 98 ra 
GEN: obese, alert and interactive, comfortable, tearful
HEENT: PERRL, icteric sclera, conjunctiva pink, oropharynx
without lesion or exudate, moist mucus membranes
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, nontender, without rebounding or guarding, 
nondistended
with normal active bowel sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: A&Ox3, cranial nerves II-XII intact, strength ___ in UE
and ___ bilaterally
PSYCH: normal mood and affect, intermittently tearful

DISCHARGE PHYSICAL EXAM:
VS: Reviewed, Afebrile, aVSS
GEN: alert and interactive, comfortable and in NAD. In better 
humor and making jokes by the afternoon
Eyes: +icterus, non-injected
ENT: MMM
CV: RRR nl S1/S2 no g/r/m
Abd: soft, NT/ND NABS
EXT: no clubbing, cyanosis, or edema
GU: no foley
SKIN: + jaundice, no other rashes, petechia, lesions.
NEURO: A&Ox3, grossly non-focal
PSYCH: normal mood and affect

 
Pertinent Results:
ADMISSION LABS
___ 08:30PM BLOOD WBC: 6.8 RBC: 4.39 Hgb: 12.6 Hct: 38.8 
MCV: 88 MCH: 28.7 MCHC: 32.5 RDW: 14.0 RDWSD: 45.___ 
___ 08:30PM BLOOD Neuts: 75.5* Lymphs: 12.5* Monos: 9.9 
Eos: 0.9* Baso: 0.6 Im ___: 0.6 AbsNeut: 5.14 AbsLymp: 0.85* 
AbsMono: 0.67 AbsEos: 0.06 AbsBaso: 0.04 
___ 08:30PM BLOOD ___: 12.0 PTT: 30.8 ___: 1.1 
___ 08:30PM BLOOD Glucose: 83 UreaN: 10 Creat: 0.9 Na: 138 
K: 3.9 Cl: 95* HCO3: 22 AnGap: 21* 
___ 08:30PM BLOOD ALT: 198* AST: 99* AlkPhos: 257* TotBili: 
6.6* DirBili: 4.5* IndBili: 2.1 
___ 08:30PM BLOOD Albumin: 4.1 
___ 10:20PM URINE Color: Yellow Appear: Hazy* Sp ___: 
1.020 
___ 10:20PM URINE Blood: NEG Nitrite: NEG Protein: 30* 
Glucose: NEG Ketone: 40* Bilirub: SM* Urobiln: NEG pH: 6.5 
Leuks: NEG 
___ 10:20PM URINE RBC: 0 WBC: <1 Bacteri: FEW* Yeast: NONE 
Epi: 0  
 
DISCHARGE LABS:
___ 07:00AM BLOOD WBC-8.9 RBC-3.97 Hgb-11.5 Hct-35.5 MCV-89 
MCH-29.0 MCHC-32.4 RDW-14.1 RDWSD-46.1 Plt ___
___ 07:00AM BLOOD Glucose-68* UreaN-12 Creat-1.0 Na-138 
K-4.2 Cl-96 HCO3-23 AnGap-19*
___ 07:05AM BLOOD ALT-154* AST-78* AlkPhos-233* 
TotBili-6.0*
___ 07:00AM BLOOD Calcium-9.4 Phos-4.2 Mg-1.7
___ 07:05AM BLOOD HIV Ab-NEG   
   
URINE CULTURE negative

IMAGING:
Data (copied from ___)
CT ___
1. There is diffuse intrahepatic biliary dilatation with abrupt 
cut off at the level of the origin of the common hepatic duct 
suggesting a Klatskin tumor. A mass is seen in segment IVB of 
the liver which may be a primary neoplasm or metastasis. The 
mass is difficult to separate from the adjacent gallbladder wall 
and adenopathy in the porta hepatis. Recommend abdominal MRI 
with and without contrast and MRCP for further evaluation.
2. Abnormal appearance of the gallbladder with suggestion of 
submucosal edema with central sludge. This will also be better 
visualized on MRI.
3. Proximal left ureteral obstruction without evidence of stone 
with delayed function, worrisome for a subtle mass or primary 
neoplasm in the proximal ureter. This may also be better 
visualized on the abdominal MRI.
4. 15 mm submucosal right-sided distal esophageal mass 
corresponds to the
findings reported on recent endoscopy.

MR ___
IMPRESSION:
1. There is an infiltrative process in segment IVB of the liver 
with a 23 mm posterior mass as well as an additional 10 mm 
nodule anteriorly with delayed enhancement concerning for a 
cholangiocarcinoma. The mass extends into the porta hepatis 
where it obstructs the biliary tree. There is metastatic 
adenopathy in the upper abdomen, diffuse moderate intrahepatic 
biliary dilatation with a normal caliber pancreatic duct and 
common bile duct, and a sludge-filled gallbladder with 
submucosal edema, all secondary to the liver mass. Recommend GI 
consultation for consideration of ERCP versus transhepatic 
cholangiogram. Image guided liver biopsy should also be strongly 
considered.
2. There is an abrupt transition in caliber of the proximal left 
ureter with wall thickening which could be neoplastic, either 
primary or secondary, or postinflammatory. Recommend urology 
consultation.
3. 15 mm distal esophageal mass is confirmed.

ERCP ___:
Impression:
The scout film was normal.
The major papilla appeared normal.
The bile duct was successfully cannulated using a Rx 
sphincterotome preloaded with a 0.035in guidewire. Contrast was 
injected and there was brisk flow through the ducts. Contrast 
extended to the entire biliary tree.
Contrast injection showed a single 2.5 cm long tight stricture 
at the level of the higher CHD up to the hilum, compatible with 
a Bismuth type II cholangiocarcinoma. There was significant 
post-obstructive dilation of the right and left main hepatic 
ducts. The CBD presented a normal caliber.
A biliary sphincterotomy was successfully performed with the 
sphincterotome. There was no post-sphincterotomy bleeding.
A cytology brush was then inserted to obtain specimen from the 
stricture which was sent for cytology.
Subsequently, a ___ x 5cm biliary double pigtail plastic stent 
(Cotton ___ was successfully placed across the stricture 
using a preloaded OASIS stent introducer kit.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically. I supervised the acquisition and 
interpretation of the fluoroscopic images. The quality of the 
fluoroscopic images was good. 
 
MR-Urogram:
1. Mild-to-moderate left hydronephrosis and proximal left 
hydroureter with
ureteral kinking and abrupt transition in its midportion at the 
level of L3.
Although findings are in a typical location of a UPJ 
obstruction, there is
associated urothelial hyperenhancement and although no discrete 
lesion is seen
a ureteroscopy is recommended to exclude an underlying lesion.
2. Delayed contrast excretion from the left kidney.
3. Intrahepatic biliary obstruction to the level of the common 
hepatic duct
with a partially imaged ill-defined mass at the level of the 
porta hepatis,
better evaluated on dedicated MRCP from Atrius.
4. Suspicious porta hepatic/celiac chain lymphadenopathy.
5. Known esophageal mass is not imaged on this examination.
6. Unchanged appearance of the gallbladder which is mildly 
distended with wall edema.
 
PATHOLOGY:
- Cytology from brushings pending on discharge
 
Brief Hospital Course:
___ year old woman with a history of anal cancer s/p 
chemoradiation (___) who is admitted with pruritis and jaundice 
with imaging suggestive of biliary obstruction, liver mass, and 
uretal mass.
  
# Jaundice
# Biliary obstruction:
# Presumed metastatic cholangiocarcinoma: 
She presented with acute biliary obstruction and underwent an 
ERCP which found an area of narrowing concerning for 
cholangiocardinoma, stent was placed and brushings obtained, 
cytology remained pending at time of discharge. Based on imaging 
there was concern for metastatic spread to liver. ___ 
Oncology was consulted and case was presented at tumor board 
which resulted in likely metastatic cholangiocarcinoma and no 
role for either surgical or radiation therapy, will require 
systemic chemo. Also no need for additional biopsies. Her LFTs 
and TBili downtrended during admission following ERCP. CA ___ 
was found to be elevated. HIV Ab negative. The plan at time of 
discharge was for ___ Onc to follow up cytology results and 
to see her as an outpatient to decide on treatment course. She 
will also be referred to ___ for a clinical trial given 
metastases. 
       
# Ureteral wall thickening: 
Patient without hydronephrosis on initial imaging and urinating 
___ without acute renal failure. UA without blood. In 
discussion with hematology, there was concern that this may 
represent an additional primary tumor site since lesion was 
outside radiation field. Urology was consulted who recommended 
MR-Urogram. MR-Urogram showed mild hydronephreosis and a small 
area which was non-definitive for a tumor and recommend 
outpatient Ureteroscopy. This was communicated both to patient 
and Oncologist, both of whom are aware of need for Ureteroscopy. 
Based on new diagnosis of metastatic cholangiocarcinoma, plan to 
hold off on investigating this lesion
for now.  
      
# Esophageal mass: EGD done on ___ at ___ with submucoal 
distal esophageal nodule, not biopsied at the time. Unable to be 
biopsied during ERCP. ___ need repeat EGD with EUS and biopsy at 
a future date. Will be returning for repeat ERCP with stent pull 
in 4 weeks anyway.

TRANSITIONAL ISSUES:
- Cytology pending at time of discharge, Oncology to follow up
- Needs Ureteroscopy in the outpatient setting to evaluate right 
ureter lesion
- ___ need repeat EGD and EUS at a future date
- Will return in 4 weeks for repeat ERCP and stent pull. ERCP 
already scheduling appointments. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Active:
- Biliary Obstruction secondary to
- Presumed cholangiocarcinoma, likely metastatic to liver

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
    
You were admitted to the hospital because you were found to have 
jaundice and a CT/MRI of your abdomen demonstrated a likely 
blockage in your bile ducts mass in your liver and on her left 
ureter.  You underwent a procedure called an ERCP which found a 
blockage of the bile duct and a stent was placed. Brushings were 
obtained because the blockage appeared to be cancer. You were 
seen by an oncologist for presumed cholangiocarcinoma but the 
final results were pending at time of discharge. Dr. ___ will 
be reaching out to you about follow up appointments for 
Oncology. 
   
Please take all medications as prescribed and keep all scheduled 
doctor's appointments. Seek medical attention if you develop a 
worsening or recurrence of the same symptoms that originally 
brought you to the hospital, experience any of the warning signs 
listed below, or have any other symptoms that concern you.
   
It was a pleasure taking care of you!
   

Your ___ Care Team

 
Followup Instructions:
___